US07727988B2
5-(2-Fluoro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep114)
2,4-Dimethoxy-pyrimidine-5-boronic acid (1.16 g, 6.32 mmol) was dissolved in degassed n-PrOH (22 ml) and then 2-fluoro-6-methyl-3-iodopyridine (870 mg, 3.67 mmol), Na2CO3 (778 mg, 7.34 mmol), PPh3 (96 mg, 0.37 mmol) and Pd(OAc)2 (41 mg added in three portions) were added. The suspension was stirred at reflux for 2.5 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and DCM. The organic phase was dried (Na2SO4) and evaporated. The crude was triturated with iPrOH to give 691 mg of the title compound (75% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 6.32 mmol, 1.16 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2-fluoro-6-methyl-3-iodopyridine | 3.67 mmol, 870 mg | FC1=NC(=CC=C1I)C | C6H5FIN
reactant | Na2CO3 | 7.34 mmol, 778 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.37 mmol, 96 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 22 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 41 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-Fluoro-6-methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine | 691 mg, 75% yield | FC1=NC(=CC=C1C=1C(=NC(=NC1)OC)OC)C | C12H12FN3O2
